data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2685,2983,[CH3:1][C:2]1([C:3]([F:4])([F:5])[F:6])[C:7]#[C:8][C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][O:23][C:24](=[O:25])[C:26]([C:27]#[N:28])=[NH+:29][C-:30]([C:31]([CH3:32])=[O:33])[C:34]([CH3:35])=[O:36]>>[CH3:1][C:2]1([C:3]([F:4])([F:5])[F:6])[C:7]2=[C:8]([C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:30]([C:31]([CH3:32])=[O:33])([C:34]([CH3:35])=[O:36])[NH:29][C:26]2([C:24]([O:23][CH3:22])=[O:25])[C:27]#[N:28],water,298.15,37.6517754841265,4.6791160883740925
3382,3842,[CH3:10][O:11][C:12](=[O:13])[N:14]=[N+:15]([CH3:16])[NH-:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:14]([C:12]([O:11][CH3:10])=[O:13])[N:15]([CH3:16])[NH:17]1,water,298.15,32.38550193656879,-4.24722166100889
3783,4333,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH:11]#[N+:12][C-:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:13]([C:14]#[N:15])([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:12]=[CH:11]2,water,298.15,15.205795560828664,-24.21055321498636
3742,4280,[CH3:9][C:10](=[O:11])[CH-:12][N+:13]([CH3:14])=[C:15]([C:16]#[N:17])[C:18]([CH3:19])=[O:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[CH:12]([C:10]([CH3:9])=[O:11])[N:13]([CH3:14])[C:15]1([C:16]#[N:17])[C:18]([CH3:19])=[O:20],water,298.15,19.878435535413445,-21.813277462765623
2063,2290,[Br:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]#[C:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1.[CH3:16][C:17](=[O:18])[N-:19][NH+:20]=[C:21]([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27]>>[Br:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]2=[C:10]([CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[N:19]([C:17]([CH3:16])=[O:18])[NH:20][C:21]2([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27],water,298.15,22.32100717035612,-32.46276492807273
1632,1803,[CH3:14][O:15][C:16](=[O:17])[c:18]1[o:19][c:20](=[O:21])[c-:22]([C:23]([CH3:24])=[O:25])[n+:26]1[CH3:27].[CH3:1][O:2][C:3]1([CH3:4])[C:5]#[C:6][C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([CH3:4])[C:5]2=[C:6]([C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:22]1([C:23]([CH3:24])=[O:25])[C:20](=[O:21])[O:19][C:18]2([C:16]([O:15][CH3:14])=[O:17])[N:26]1[CH3:27],water,298.15,21.68623053914339,-13.220719665967955
3140,3538,[CH3:10][CH:11]=[O+:12][C-:13]([CH3:14])[CH3:15].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:11]([CH3:10])[O:12][C:13]1([CH3:14])[CH3:15],water,298.15,12.04301544326044,-61.27667268157858
4423,5055,[CH3:9][O:10][C:11](=[O:12])[C-:13]([CH3:14])[N+:15]([CH3:16])=[C:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([CH3:14])[N:15]([CH3:16])[C:17]1([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23],water,298.15,44.55890808230389,-8.274895533184806
4552,5192,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([C:10](=[O:11])[NH:12][CH3:13])[N+:14]([CH3:15])=[C:16]([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:10](=[O:11])[NH:12][CH3:13])[N:14]([CH3:15])[C:16]1([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,34.33829091735282,-27.980455525185818
4040,4625,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]#[N+:20][NH-:21]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[NH:21][N:20]=[C:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,13.784788049509585,-32.80147358079583
317,346,[CH3:1][O:2][C:3]#[C:4][C:5]([CH3:6])=[O:7].[CH3:8][NH:9][C:10](=[O:11])[CH-:12][O+:13]=[C:14]([CH3:15])[C:16](=[O:17])[NH:18][CH3:19]>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:12]([C:10]([NH:9][CH3:8])=[O:11])[O:13][C:14]1([CH3:15])[C:16](=[O:17])[NH:18][CH3:19],water,298.15,11.542569967460576,-73.88400344351714
3840,4394,[CH3:9][O:10][C:11](=[O:12])[C-:13]([N+:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[N:14]=[N:15]1,water,298.15,27.95223561109504,-4.616062139010653
